US07579449B2
1-chloro-2-(4-cyclopentyloxybenzyl)-4-(β-D-glucopyranos-1-yl)-benzene
0.16 ml iodocyclopentane are added to a mixture of 0.25 g 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene and 0.4 g caesium carbonate in 2.5 ml of dimethylformamide. The mixture is stirred for 4 h at 45° C., before another 0.1 g caesium carbonate and 0.05 ml iodocyclopentane are added. After another 14 h stirring at 45° C. aqueous sodium chloride solution is added and the mixture is extracted with ethyl acetate. The organic phase is dried over sodium sulphate, the solvent is removed and the residue is purified using silica gel (dichloromethane/methanol 1:0->5:1).

reactant | iodocyclopentane | 0.16 ml | IC1CCCC1 | C5H9I
reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.25 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C19H21ClO7
reactant | caesium carbonate | 0.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | caesium carbonate | 0.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodocyclopentane | 0.05 ml | IC1CCCC1 | C5H9I
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 1-chloro-2-(4-cyclopentyloxybenzyl)-4-(β-D-glucopyranos-1-yl)-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1CCCC1 | C24H29ClO7
